US07576089B2
N-{2-[(2R,4R)-4-Hydroxy-2-methylpyrrolidin-1-yl]-2-oxoethyl}-3-(trifluoromethyl)benzamide
(3R,5R)-5-Methylpyrrolidin-3-ol hydrochloride (1.80 g, 13 mmol) was dissolved in dichloromethane (50 mL) and diisopropylethylamine (2.1 mL, 12.0 mmol) under nitrogen. (3-Trifluoromethyl-benzoylamino)-acetic acid (2.93 g, 11.85 mmol) was added followed by EDC (3.41 g, 17.8 mmol) and the mixture was stirred at room temperature for four hours. The mixture was diluted with NH4Cl/H2O and extracted twice with ethyl acetate. The combined extracts were washed with NaHCO3/H2O and brine, dried over MgSO4, filtered and concentrated to give a dark orange oil. Chromatography on silica gel eluting with ethyl acetate to 5% methanol/ethyl acetate gave the coupled product as a pale orange solid, 3.19 g (81%, 2 steps). LC/MS (M+H)+ m/z=331.1. 1H NMR (CDCl3, major rotamer) δ 8.12 (s, 1H), 8.01 (d, 1H), 7.76 (d, 1H), 7.57 (t, 1H), 7.50 (m, 1H), 4.56 (m, 1H), 4.34 (m, 1H), 4.23 (m, 1H), 4.11 (m, 1H), 3.61 (dd, 1H), 3.51 (d, 1H), 2.71 (d, 1H), 2.17 (m, 1H), 1.81 (m, 1H), 1.32 (d, 3H).

reactant | (3R,5R)-5-Methylpyrrolidin-3-ol hydrochloride | 13 mmol, 1.80 g | Cl.C[C@@H]1C[C@H](CN1)O
reactant | diisopropylethylamine | 12.0 mmol, 2.1 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (3-Trifluoromethyl-benzoylamino)-acetic acid | 11.85 mmol, 2.93 g | FC(C=1C=C(C(=O)NCC(=O)O)C=CC1)(F)F | C10H8F3NO3
reactant | EDC | 17.8 mmol, 3.41 g
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | NH4Cl H2O | [NH4+].[Cl-].O
solvent | methanol ethyl acetate | CO.C(C)(=O)OCC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-{2-[(2R,4R)-4-Hydroxy-2-methylpyrrolidin-1-yl]-2-oxoethyl}-3-(trifluoromethyl)benzamide | O[C@@H]1C[C@H](N(C1)C(CNC(C1=CC(=CC=C1)C(F)(F)F)=O)=O)C | C15H17F3N2O3
